US08049013B2
2-(4-Chloro-phenyl)-5-(2,4-dimethoxy-benzyl)-5H-thiazolo[5,4-c]pyridin-4-one
Mix 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid 2,4-dimethoxy-benzylamide (19.7 g, 45.5 mmol) with EtOAc (400 mL) and treat the resulting slurry with 1-hydroxy-1-oxo-1H-benzo[d][1,2]iodoxol-3-one (36.0 g, 57.8 mmol). Stir the mixture at 60° C. for 1.5 h. Add additional 1-hydroxy-1-oxo-1H-benzo[d][1,2]iodoxol-3-one (18.0 g, 28.9 mmol) and stir the mixture at 70° C. overnight. Cool the mixture to room temperature and then dilute with CH2Cl2 (600 mL). Filter the mixture and wash the solids with additional CH2Cl2 (3×500 mL). Wash the filtrate with NaHCO3 (4×300 mL) and water (300 mL). Dry the organic portion, filter, and concentrate in vacuo. Purify the crude material by flash chromatography, using 0.5% MeOH/CH2Cl2 as eluent, to give 13.1 g (70%) of the title compound as a light yellow-orange solid. 1H NMR (400 MHz, CDCl3) δ7.99 (d, 2H, J=8.1), 7.50 (d, 1H, J=7.4), 7.45 (d, 2H, J=8.8), 7.38 (d, 1H, J=8.8), 6.84 (d, 1H, J=6.4), 6.46 (m, 2H), 5.16 (s, 2H), 3.84 (s, 3H), 3.78 (s, 3H).

reactant | 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid 2,4-dimethoxy-benzylamide | 45.5 mmol, 19.7 g | COC1=C(CNC(=O)C2=C(N=C(S2)C2=CC=C(C=C2)Cl)CCO)C=CC(=C1)OC | C21H21ClN2O4S
reactant | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
reactant | 1-hydroxy-1-oxo-1H-benzo[d][1,2]iodoxol-3-one | 57.8 mmol, 36.0 g | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
reactant | 1-hydroxy-1-oxo-1H-benzo[d][1,2]iodoxol-3-one | 28.9 mmol, 18.0 g | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-phenyl)-5-(2,4-dimethoxy-benzyl)-5H-thiazolo[5,4-c]pyridin-4-one | 13.1 g, 70% | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)CC1=C(C=C(C=C1)OC)OC)=O | C21H17ClN2O3S
